US09227976B2
3-bromo-4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (Compound Ibb)
A mixture of 4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (155 mg, 0.67 mmol), bromine (51 μL, 1 mmol) and triethylamine (98 μL, 0.7 mmol) in chloroform (4 mL) was stirred at room temperature for 1 h. Additional bromine (25 μL) and chloroform (4 mL) were added and the reaction mixture was stirred at room temperature for 4 h. Further bromine (25 μL) and triethylamine (98 μL) were added and the reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with CH2Cl2 and a sodium bicarbonate solution. The aqueous phase was extracted with CH2Cl2 and the combined organic phases were dried (phase separator cartridge) and concentrated in vacuo. The resultant residue was purified using chromatography (silica gel, ethyl acetate/isohexane 0:1 to 1:1), to provide Compound Ibb as a solid (97 mg).

reactant | 4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 0.67 mmol, 155 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2 | C11H7ClN4
reactant | bromine | 1 mmol, 51 μL | BrBr | Br2
reactant | triethylamine | 0.7 mmol, 98 μL | C(C)N(CC)CC | C6H15N
reactant | bromine | 25 μL | BrBr | Br2
reactant | bromine | 25 μL | BrBr | Br2
reactant | triethylamine | 98 μL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-4-chloro-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 97 mg | BrC1=NNC2=NN=C(C(=C21)Cl)C2=CC=CC=C2 | C11H6BrClN4
